US04238494
Ethyl 2-acetamido-3-oxoheptanoate (10.4g) was hydrolysed by heating under reflux with 50% hydrochloric acid (80 ml) for 9 hours. The mixture was evaporated to dryness to give 1-amino-2-hexanone hydrochloride (5.8g) as a dark red oil.

reactant | Ethyl 2-acetamido-3-oxoheptanoate | 10.4g | C(C)(=O)NC(C(=O)OCC)C(CCCC)=O | C11H19NO4
reactant | hydrochloric acid | 80 ml | Cl | ClH
product | 1-amino-2-hexanone hydrochloride | 5.8g | Cl.NCC(CCCC)=O | InChI=1S/C6H13NO.ClH/c1-2-3-4-6(8)5-7;/h2-5,7H2,1H3;1H
